*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7S(-55to125[deg])/1.00e+00[uF]/10[V]
* Murata P/N :GCM155C71A105ME38
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155C71A105ME38 Port1 Port2
C01 Port1 N01 7.88e-07
R01 Port1 N01 5.00e+07
L02 N01 N02 1.52e-10
R03 N02 N03 1.46e-02
C04 N03 N04 3.61e-05
R04 N03 N04 3.23e+01
C05 N04 N05 3.67e-05
R05 N04 N05 4.03e+00
C06 N05 N06 3.43e-05
R06 N05 N06 5.40e-01
C07 N06 N07 2.76e-05
R07 N06 N07 8.19e-02
C08 N07 N08 2.10e-05
R08 N07 N08 1.46e-02
L09 N08 N09 1.20e-10
R09 N08 N09 3.32e-02
L10 N09 N10 1.63e-11
R10 N09 N10 2.42e-02
C11 N10 N11 3.79e-06
L11 N10 N11 2.07e-11
R11 N10 N11 3.48e-03
C12 N11 N12 1.18e-06
L12 N11 N12 2.92e-11
R12 N11 N12 5.51e-03
C13 N12 N13 3.25e-11
L13 N12 N13 3.82e-11
R13 N12 N13 2.82e-01
C14 N13 Port2 4.36e-12
L14 N13 Port2 6.83e-11
R14 N13 Port2 1.93e+01
.ENDS GCM155C71A105ME38
